US08071592B2
3-[({1-[2-(7-fluoro-2-oxo-1(2H)-quinoxalinyl)ethyl]-4-piperidinyl}amino)methyl]-5H-pyridazino[3,4-b][1,4]thiazin-6(7H)-one Fumarate
A solution of 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-2(1H)-quinoxalinone dihydrochloride (90 mg; 0.25 mmol) and 6-oxo-6,7-dihydro-5H-pyridazino[3,4-b][1,4]thiazine-3-carbaldehyde (for a synthesis see WO 2004/058144 Example 58(d)) (48 mg, 0.25 mmol) in MeOH (5 ml), chloroform (5 ml) and triethylamine (0.09 ml) was heated under reflux with 3A molecular sieves overnight. It was cooled and sodium triacetoxyborohydride (0.166 g; 0.78 mmol) was added, and the mixture was stirred at rt for 8 h. Further triacetoxyborohydride (0.166 g) was added and stirring continued overnight. Aqueous sodium bicarbonate solution was added to basify and the aqueous phase was extracted several times with 10% MeOH-DCM. The organic fractions were dried and evaporated. Chromatography on silica gel, eluting with 0-20% MeOH-DCM gave the free base of the title compound (61 mg, 52%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-2(1H)-quinoxalinone dihydrochloride | 0.25 mmol, 90 mg | Cl.Cl.NC1CCN(CC1)CCN1C(C=NC2=CC=C(C=C12)F)=O
reactant | 6-oxo-6,7-dihydro-5H-pyridazino[3,4-b][1,4]thiazine-3-carbaldehyde | O=C1NC2=C(SC1)N=NC(=C2)C=O | C7H5N3O2S
reactant | sodium triacetoxyborohydride | 0.78 mmol, 0.166 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triacetoxyborohydride | 0.166 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | triethylamine | 0.09 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[({1-[2-(7-fluoro-2-oxo-1(2H)-quinoxalinyl)ethyl]-4-piperidinyl}amino)methyl]-5H-pyridazino[3,4-b][1,4]thiazin-6(7H)-one Fumarate | 61 mg, 52% | C(\C=C\C(=O)O)(=O)O.FC1=CC=C2N=CC(N(C2=C1)CCN1CCC(CC1)NCC1=CC2=C(SCC(N2)=O)N=N1)=O | InChI=1S/C22H24FN7O2S.C4H4O4/c23-14-1-2-17-19(9-14)30(21(32)12-25-17)8-7-29-5-3-15(4-6-29)24-11-16-10-18-22(28-27-16)33-13-20(31)26-18;5-3(6)1-2-4(7)8/h1-2,9-10,12,15,24H,3-8,11,13H2,(H,26,31);1-2H,(H,5,6)(H,7,8)/b;2-1+
